US08106190B2
A methylene chloride solution of 7-amino-1-(2-{[tert-butyl(dimethyl)silyl]oxy}ethyl)-3,4-dihydroquinolin-2(1H)-one, 2-(cyclohexylamino)-4-(trifluoromethyl)benzoic acid, 1-ethyl-3-[3-(N,N-dimethylamino)propyl]carbodiimide hydrochloride, dimethylaminopyridine and triethylamine was allowed to undergo the reaction at room temperature. By post-treating the reaction liquid, N-[1-(2-{[tert-butyl(dimethyl)silyl]oxy}ethyl)-2-oxo-1,2,3,4-tetrahydroquinolin-7-yl]-2-(cyclohexylamino)-4-(trifluoromethyl)benzamide was obtained.

reactant | 7-amino-1-(2-{[tert-butyl(dimethyl)silyl]oxy}ethyl)-3,4-dihydroquinolin-2(1H)-one | NC1=CC=C2CCC(N(C2=C1)CCO[Si](C)(C)C(C)(C)C)=O | C17H28N2O2Si
reactant | 2-(cyclohexylamino)-4-(trifluoromethyl)benzoic acid | C1(CCCCC1)NC1=C(C(=O)O)C=CC(=C1)C(F)(F)F | C14H16F3NO2
reactant | 1-ethyl-3-[3-(N,N-dimethylamino)propyl]carbodiimide hydrochloride | Cl.C(C)N=C=NCCCN(C)C
reactant | dimethylaminopyridine | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | N-[1-(2-{[tert-butyl(dimethyl)silyl]oxy}ethyl)-2-oxo-1,2,3,4-tetrahydroquinolin-7-yl]-2-(cyclohexylamino)-4-(trifluoromethyl)benzamide | [Si](C)(C)(C(C)(C)C)OCCN1C(CCC2=CC=C(C=C12)NC(C1=C(C=C(C=C1)C(F)(F)F)NC1CCCCC1)=O)=O | C31H42F3N3O3Si
